US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl ester (0.48 g, 1.16 mmol), prepared substantially as described in Part C of Example 19a, and 2-methoxy-1-methyl-ethylamine (0.21 g, 2.32 mmol) were treated substantially as described in Part C of Example 19a to produce 0.28 g (68%) of [4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine: MS (AP) m/z 351.8 [(M+H)+, 90].

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl ester | 1.16 mmol, 0.48 g | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C13H8ClF3N2O6S
reactant | 2-methoxy-1-methyl-ethylamine | 2.32 mmol, 0.21 g | COCC(C)N | C4H11NO
product | [4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine | 0.28 g, 68% | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)NC(COC)C)[N+](=O)[O-] | C16H18ClN3O4
